US07157457B2
Intermediate 27: 2-[3-(pyrrolidin-1-ylsulfonyl)propyl]-1H-isoindole-1,3(2H)-dione
A solution of 3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propane-1-sulfonyl chloride (0.288 g) in dry tetrahydrofuran (5 ml) was treated with N,N-diisopropylethylamine (0.350 ml) and pyrrolidine (0.10 ml) at 22° C. under nitrogen, and the mixture was stirred at 22° C. for 1 h. After standing overnight at room temperature, the mixture was partitioned between saturated aqueous sodium bicarbonate (10 ml) and ethyl acetate (2×10 ml). The organic layers were washed with brine, dried (MgSO4) and evaporated in vacuo to give a white solid (0.145 g).

reactant | 3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propane-1-sulfonyl chloride | 0.288 g | O=C1N(C(C2=CC=CC=C12)=O)CCCS(=O)(=O)Cl | C11H10ClNO4S
reactant | N,N-diisopropylethylamine | 0.350 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pyrrolidine | 0.10 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[3-(pyrrolidin-1-ylsulfonyl)propyl]-1H-isoindole-1,3(2H)-dione | 0.145 g | N1(CCCC1)S(=O)(=O)CCCN1C(C2=CC=CC=C2C1=O)=O | C15H18N2O4S
